US09315521B2
A mixture of 2-(chloromethyl)-1-ethyl-1H-imidazol-1-ium chloride (1.0 g, 5.5 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (650 mg, 4.6 mmol), and potassium carbonate (2.0 g, 14.4 mmol) in anhydrous DMF (10 mL) was stirred at room temperature overnight. The reaction mixture was evaporated under reduced pressure. The solid residue was treated with dichloromethane (20 mL) and brine (60 mL). The aqueous layer was recovered and evaporated. The residue was purified by flash chromatography (0-20% MeOH/CH2Cl2), affording 2-{[(1-ethyl-1H-imidazol-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (244 mg, 21% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.27 (t, 3H, J=7.2 Hz), 2.17 (s, 3H), 4.00 (m, 2H), 4.50 (s, 2H), 6.00 (s, 1H), 6.81 (s, 1H), 7.15 (s, 1H); M+251. The product was used without further purification.

reactant | 2-(chloromethyl)-1-ethyl-1H-imidazol-1-ium chloride | 5.5 mmol, 1.0 g | [Cl-].ClCC=1[NH+](C=CN1)CC
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 4.6 mmol, 650 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 14.4 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-{[(1-ethyl-1H-imidazol-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 244 mg, 21% yield | C(C)N1C(=NC=C1)CSC1=NC(=CC(=N1)O)C | C11H14N4OS
